US07402684B2
(S)-2-[4-(3-thiophen-benzyl)-phenoxymethyl]-pyrrolidine 1-carboxylic acid tert-butyl ester:
Followed the same procedure as that of step 1 in Example 107 with the use of (S)-2-[4-(4-iodo-benzyl)phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (2000 mg, 4 mmol), thiophene-3-boronic acid (1200 mg, 8 mmol) to afford the title product, (1300 mg, 74%); 1H NMR (400 MHz, CDCl3); δ 1.47 (s, 9H), 1.79-2.08 (m, 4H), 3.26-3.44 (m, 2H), 3.70-3.95 (m, 1H), 3.93 (s, 2H), 4.03-4.18 (m, 2H), 6.82-6.88 (m, 2H), 7.10 (d, J=8.0 Hz, 2H), 7.19 (d, J=8.0 Hz, 2H), 7.35-7.41 (m, 3H), 7.50 (d, J=8.0 Hz, 2H):

reactant | (S)-2-[4-(4-iodo-benzyl)phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 4 mmol, 2000 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C=C1)CC1=CC=C(C=C1)I | C23H28INO3
reactant | thiophene-3-boronic acid | 8 mmol, 1200 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
product | (S)-2-[4-(3-thiophen-benzyl)-phenoxymethyl]-pyrrolidine 1-carboxylic acid tert-butyl ester | 1300 mg, 74% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=C(C=C1)CC1=CC=CC=C1C1=CSC=C1 | C27H31NO3S
